US04354034
2-(2-Bromo-5-chlorophenoxy)-N,N-dimethylpropionamide (Compound no. 11)
2-Bromo-5-chlorophenol (8 g), 2-bromo-N,N-dimethylpropionamide (6.66 g) and anhydrous potassium carbonate (2.6 g) in methyl iso-butyl ketone (100 ml) were refluxed with stirring overnight. The mixture was cooled to 50° and washed with 5% sodium hydroxide (2×20 ml) and then water (2×50 ml). The organic solution was dried and evaporated under reduced pressure to yield a pale red oil, which solidified on cooling. Recrystallisation from 50% aqueous ethanol gave the title compound, m.p. 76°-77°. Compounds 2, 9, 10 to 13, 17 and 21 were made by a similar procedure.

reactant | 2-Bromo-5-chlorophenol | 8 g | BrC1=C(C=C(C=C1)Cl)O | C6H4BrClO
reactant | 2-bromo-N,N-dimethylpropionamide | 6.66 g | BrC(C(=O)N(C)C)C | C5H10BrNO
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl iso-butyl ketone | 100 ml | C(C(C)C)C(=O)C | C6H12O
product | 2-(2-Bromo-5-chlorophenoxy)-N,N-dimethylpropionamide | BrC1=C(OC(C(=O)N(C)C)C)C=C(C=C1)Cl | C11H13BrClNO2
